data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_204271_0,[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:12])([H:16])[H:17])([C:4]([O:6][O:7][H:9])=[O:8])[N:5]([H:10])[H:11]>>[C:1]([C:3]([H:12])([H:16])[H:17])([C:4]([C:2]([H:13])([H:14])[H:15])=[O:8])([N:5]([H:10])[H:11])[O:6][O:7][H:9],45.92233250001797
MR_417407_0,[C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([H:12])([H:13])[H:14])([N:4]([H:7])[H:8])[N:6]=[C:5]([H:15])[H:16]>>[C:1]1([C:2]([H:9])([H:10])[H:11])([N:4]([H:7])[H:8])[C:5]([H:15])([H:16])[N:6]1[C:3]([H:12])([H:13])[H:14],71.0336275000023
MR_510220_1,[C:1]([C:4]12[N:2]([H:8])[C:3]([N:5]([H:9])[H:10])([N:6]1[H:11])[N:7]2[H:12])([H:13])([H:14])[H:15]>>[C:1](/[C:4]([N:6](/[C:3](=[N:2]/[H:8])[N:5]([H:9])[H:10])[H:11])=[N:7]\[H:12])([H:13])([H:14])[H:15],12.474072500001938
MR_584711_1,[C:1]1([C:3]([H:15])([H:17])[H:18])([C:4]([H:16])([H:19])[H:20])[C:2]([H:13])([H:14])[N:5]([C:7]([N:8]([H:11])[H:12])=[O:9])[N:6]1[H:10]>>[C:1]([C:2]([N:5]([N:6]([H:10])[H:15])[C:7]([N:8]([H:11])[H:12])=[O:9])([H:13])[H:14])(=[C:3]([H:17])[H:18])[C:4]([H:16])([H:19])[H:20],57.71117500000216
MR_652333_1,[C:1]([N:3]([C:2]([H:12])([H:13])[H:14])[N:4]([O:5][H:7])[H:9])([O:6][H:8])([H:10])[H:11]>>[C:1]([N:4]([N:3]([C:2]([H:12])([H:13])[H:14])[H:9])[O:5][H:7])([O:6][H:8])([H:10])[H:11],10.176167499989504
MR_571817_0,[C:1]([N:5]([C:6]([C:2]([H:14])([H:15])[H:16])=[C:7]([C:3]([H:17])([H:18])[H:22])[C:4]([H:19])([H:20])[H:21])[C:8](=[O:9])[H:10])([H:11])([H:12])[H:13]>>[C:1](/[N:5]=[C:6](/[C:2]([H:14])([H:15])[H:16])[C:7]([C:3]([H:17])([H:18])[H:22])([C:4]([H:19])([H:20])[H:21])[C:8](=[O:9])[H:10])([H:11])([H:12])[H:13],56.48754999998829
MR_163063_0,[C:1](\[N:3]([H:10])[H:11])([O:5][C:4](=[O:7])[H:12])=[N:6]/[N:2]([H:8])[H:9]>>[C:1]([N:3]([H:10])[H:11])(=[O:5])[N:6]([N:2]([H:8])[H:9])[C:4](=[O:7])[H:12],15.765310000003296
MR_141787_0,[C@:1]1([N:4]([C:3]([H:13])([H:14])[H:15])/[C:5](=[N:7]/[H:11])[H:12])([H:8])[C:2]([H:9])([H:10])[O:6]1>>[C:1]1([N:4]([C:3]([H:13])([H:14])[H:15])/[C:5](=[N:7]/[H:11])[H:12])([H:8])[C:2]([H:9])([H:10])[O:6]1,64.53711999999655
MR_415990_0,[C:1]([C:2]([C:4]([H:19])([H:20])[H:21])([N:6]([H:13])[H:14])[H:10])([C:3](/[C:7](=[N:8]/[H:15])[H:18])([H:16])[H:17])([N:5]([H:11])[H:12])[H:9]>>[C:1](\[C:3]([C:7]([C:2]([C:4]([H:19])([H:20])[H:21])([N:6]([H:13])[H:14])[H:10])([N:8]([H:11])[H:15])[H:18])([H:16])[H:17])(=[N:5]/[H:12])[H:9],71.27333250000348
MR_661167_0,[C:1](/[C:2](=[C:3](\[N:4]([H:15])[H:16])[O:9][H:14])[O:8][H:13])([O:5][H:10])([O:6][H:11])[O:7][H:12]>>[C:1]([C:3](=[C:2]([O:8][H:13])[O:9][H:14])[N:4]([H:15])[H:16])([O:5][H:10])([O:6][H:11])[O:7][H:12],58.81243750003961
MR_309576_0,[C@@:1]1([O:7][H:9])([H:10])[C:4](=[O:8])[C:2]([H:11])([H:12])[C:5]([C:3]([H:14])([H:15])[H:16])=[C:6]1[H:13]>>[C:1](=[C:6](/[C@:5]1([C:3]([H:14])([H:15])[H:16])[C:2]([H:11])([H:12])[C:4]1[O:8])[H:13])(\[O:7][H:9])[H:10],68.49915500001643
MR_211465_1,[C:1](=[N:8][C:4]1([H:11])[C:5]([C:3]([C:2]([H:13])([H:14])[H:15])=[C:6]([H:16])[H:17])([H:12])[C:7]1([H:18])[H:19])([H:9])[H:10]>>[C:1]([C:3]([C:2]([H:13])([H:14])[H:15])=[C:6]([H:16])[H:17])(/[N:8]=[C:4](\[C:5](=[C:7]([H:18])[H:19])[H:12])[H:11])([H:9])[H:10],64.95252500001783
MR_180077_1,[C:1]([O:2][O:3][H:6])([O:4][H:7])=[O:5]>>[C:1]1([O:3][H:6])([O:4][H:7])[O:2][O:5]1,73.12257499997159
MR_661958_2,[C:1]12([C:3]([C:8]([H:22])([H:23])[H:24])([H:11])[C:5]1([H:14])[H:15])[C:4]([H:12])([H:13])[O:10][C:2]([C:6]([H:16])([H:17])[H:18])([C:7]([H:19])([H:20])[H:21])[O:9]2>>[C:1]1([C:4]([O:10][H:21])([H:12])[H:13])([O:9][C:2]([C:6]([H:16])([H:17])[H:18])=[C:7]([H:19])[H:20])[C:3]([C:8]([H:22])([H:23])[H:24])([H:11])[C:5]1([H:14])[H:15],57.7036449999855
MR_247145_1,[C:1]1([O:8][H:9])([H:12])[C:6]([N:4]([C:2]([H:13])([H:14])[H:15])[H:10])([N:5]([C:3]([H:16])([H:17])[H:18])[H:11])[C:7]1([H:19])[H:20]>>[C:1]([N:5]([C:3]([H:16])([H:17])[H:18])[H:11])([C:6]([N:4]([C:2]([H:13])([H:14])[H:15])[H:10])=[C:7]([H:19])[H:20])([O:8][H:9])[H:12],60.98547000001062
MR_43907_1,[C:1]([C:4]([H:20])([H:21])[H:22])([C:5]([H:19])([H:23])[H:24])([N:6]([C:2]([H:13])([H:14])[H:15])/[C:7]([N:8]([H:11])[H:12])=[N:9]/[C:3]([H:16])([H:17])[H:18])[H:10]>>[C:1]([C:4]([H:20])([H:21])[H:22])([C:5]([H:19])([H:23])[H:24])([N:9]([C:3]([H:16])([H:17])[H:18])/[C:7](=[N:6]/[C:2]([H:13])([H:14])[H:15])[N:8]([H:11])[H:12])[H:10],64.55155249999578
MR_418806_1,[C:1]12([C:4]([H:11])([H:12])[H:13])[C:2]([H:8])([C:3]1([C:5](=[O:7])[H:10])[H:9])[O:6]2>>[C:1]1([C:4]([H:11])([H:12])[H:13])=[C:3]([H:9])[C:2]([C:5](=[O:7])[H:10])([H:8])[O:6]1,37.528265000023424
MR_316244_1,[C:1]([C:5]([C:2]([H:18])([H:19])[H:20])=[N:9][C:3](=[C:4]([N:7]([H:12])[H:13])[N:8]([H:14])[H:15])[N:6]([H:10])[H:11])([H:16])([H:17])[H:21]>>[C:1]([C:5]1([C:2]([H:18])([H:19])[H:20])[C:4]([N:7]([H:12])[H:13])([N:8]([H:14])[H:15])[C:3]([N:6]([H:10])[H:11])=[N:9]1)([H:16])([H:17])[H:21],39.54881499998706
MR_647372_1,[C:1]([C:5]1([O:7][N:2]([O:6][H:8])[H:9])[N:3]([H:10])[N:4]1[H:11])([H:12])([H:13])[H:14]>>[C:1]([C:5]([N:3]([N:4]([N:2]([O:6][H:8])[H:9])[H:11])[H:10])=[O:7])([H:12])([H:13])[H:14],49.43633249999195
